US06291465B1
A solution of 53 mg (0.25 mmol)(2′-methoxy-biphenyl-2-yl)-methyl-amine and 0.064 ml (0.375 mmol) N-ethyldiisopropylamine in 4 ml CH2Cl2 was cooled in an ice bath and a solution of 88 mg (0.275 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride in 1 ml CH2Cl2 was added dropwise. The reaction mixture was stirred overnight at room temperature. Ethyl acetate was added and the organic layer was washed with saturated Na2CO3 solution, 1 N HCl solution, dried (MgSO4) and evaporated. The residue was purified by chromatography (SiO2, hexane/ethyl acetate 4:1) to give 107 mg (87%) 2-(3,5-bis-trifluoromethyl-phenyl)-N-(2′-methoxy-biphenyl-2-yl)-N-methyl-isobutyramide as orange crystals, MS (ISP): 496.1(M+H)+.

reactant | (2′-methoxy-biphenyl-2-yl)-methyl-amine | 0.25 mmol, 53 mg | COC1=C(C=CC=C1)C1=C(C=CC=C1)NC | C14H15NO
reactant | N-ethyldiisopropylamine | 0.375 mmol, 0.064 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 0.275 mmol, 88 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,5-bis-trifluoromethyl-phenyl)-N-(2′-methoxy-biphenyl-2-yl)-N-methyl-isobutyramide | 107 mg, 87% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C1=C(C=CC=C1)C1=C(C=CC=C1)OC)(C)C)(F)F | C26H23F6NO2
